US07482354B2
8-anilino-N-(2-hydroxyethyl)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B04-X00-M00(C01)-D06]
To a suspension of 0.30 g (0.86 mmol) of ethyl 8-anilino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate in a mixture of 10 mL of methanol and 10 mL of dimethylformamide, 5 mL of ethanolamine were added. The mixture was heated in a close bottle under stirring at 65° C. After 5 hours the solvent was removed, the residue redissolved with dichloromethane and washed with water. The organic layer was dried over Na2SO4 and evaporated. The residue was triturated with diethyl ether and the product collected by filtration (60% yield).

reactant | ethyl 8-anilino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.86 mmol, 0.30 g | N(C1=CC=CC=C1)C1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C19H19N5O2
reactant | ethanolamine | 5 mL | C(O)CN | C2H7NO
solvent | methanol | 10 mL | CO | CH4O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 8-anilino-N-(2-hydroxyethyl)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 60% yield | N(C1=CC=CC=C1)C1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)NCCO | C19H20N6O2
